US06225310B1
d) N-(4-Cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-isopropylthiourea
A mixture of 4-cyano-2-ethoxycarbonylamino-5-methyl-thiophene-3-sulfonamide (0.50 g), potassium carbonate (0.36 g) and isopropyl isothiocyanate (300 μl) in 10 ml of dry acetone was heated at 55° C. for 18 h and then evaporated to dryness. The residue was dissolved in 10 ml of water, and pH was adjusted to 2 by dropwise addition of 1M hydrochloric acid. The precipitate was filtered off, rinsed with a small amount of water and dried to give 0.34 g of the title compound; m.p. 169-171° C.

reactant | 4-cyano-2-ethoxycarbonylamino-5-methyl-thiophene-3-sulfonamide | 0.50 g | C(#N)C=1C(=C(SC1C)NC(=O)OCC)S(=O)(=O)N | C9H11N3O4S2
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isothiocyanate | 300 μl | C(C)(C)N=C=S | C4H7NS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(4-Cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-isopropylthiourea | 0.34 g | C(#N)C=1C(=C(SC1C)NC(=O)OCC)S(=O)(=O)NC(=S)NC(C)C | C13H18N4O4S3
